US07026335B2
Preparation of 3-(4-cylcohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidin-1-yl)-2-(4-fluorobenzyl)-3-oxo-propionic acid methyl ester (57):
To a solution of 2-(4-fluoro-benzyl)-malonic acid monomethyl ester, 56, (47.5 mg, 0.21 mmol), 4-cyclohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidine, 18, (50 mg, 0.20 mmol), 1-hydroxybenzotriazole (54 mg, 0.40 mmol), 4-methylmorpholine (88 □l, 0.80 mmol) in N,N-dimethylformamide (7 mL) is added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (50 mg, 0.26 mmol). The reaction mixture is stirred overnight and then aqueous ammonium chloride is added. The reaction is extracted with ethyl acetate, and the organics are separated dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product is purified by preparative HPLC to afford the desired compound.

reactant | 2-(4-fluoro-benzyl)-malonic acid monomethyl ester | COC(C(C(=O)O)CC1=CC=C(C=C1)F)=O | C11H11FO4
reactant | 4-cyclohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidine | 0.21 mmol, 47.5 mg | C1(CCCCC1)C1(CCNCC1)CN1N=CN=C1 | C14H24N4
reactant | 1-hydroxybenzotriazole | 0.20 mmol, 50 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 4-methylmorpholine | 0.80 mmol | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.26 mmol, 50 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
product | 3-(4-cylcohexyl-4-[1,2,4]triazol-1-ylmethyl-piperidin-1-yl)-2-(4-fluorobenzyl)-3-oxo-propionic acid methyl ester | COC(C(C(=O)N1CCC(CC1)(CN1N=CN=C1)C1CCCCC1)CC1=CC=C(C=C1)F)=O | C25H33FN4O3
